Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
allopurinol / Statins-Hmg-Coa Reductase Inhibitors
 
Attending: ___.
 
Chief Complaint:
peripheral arterial disease, non-healing ulcer left foot 
 
Major Surgical or Invasive Procedure:
___: 
-L fem-AK pop w/ nrGSV
-Sciatic nerve block
-Left foot wound debridement
-VAC to left foot 
 
History of Present Illness:
Ms. ___ is a ___ recently admitted for management of a 
chronic, non-healing left foot ulcer who presents s/p diagnostic 
angiogram of the left lower extremity (___) for planned left 
femoral-popliteal bypass.
 
Past Medical History:
PMH:
-HTN, labile  
-HLD  
-HYPOTHYROIDISM  
-RETINAL ARTERY OCCLUSION 
-Migraine 
-CAD/MI (MIs in ___ and ___: This demonstrated a mid  

RCA lesion which was stented with a drug-eluting stent. LAD had 
a proximal 30% stenosis, left circumflex had a ostial 50% 
stenosis. The distal RCA also had a 50% stenosis)  
-CHF (EF 60-65% in ___  
-OBESITY
-insulin-dependent DMII  
-Gout  
-Renal artery stenosis  
-CKDIII  
-Anemia  
-afib
-Depression 

 
Social History:
___
Family History:
Father died of colon cancer in ___.
 
Physical Exam:
At admission: 
GEN: NAD, annoyed--speaking in short, sarcastic, 
profranity-filled sentences
HEENT: EOMI, MMM
CV: RRR
PULM: non-labored breathing
ABD: soft, nontender, nondistended
EXT: 2+ edema bilaterally, approximately 2x2 cm ulcer over left 
lateral dorsum of foot without foul odor or drainage, minimal 
surrounding erythema, L shallow heel ulcer, shallow clean based 
ulcer over posterior aspect left calf; right shallow clean based 

heel ulcer dressed with adaptic, Kerlix and ACE
NEURO: A&Ox3

At discharge:

GEN: NAD, wearing glasses
CV: RRR
PULM: non-labored breathing
ABD: soft, nontender, nondistended
EXT: 2+ edema bilaterally; incision with skin staples along 
medial side of left thigh; approximately 2x2 cm ulcer over left 
lateral dorsum of foot without foul odor or drainage; L shallow 
heel ulcer, shallow clean based ulcer over posterior aspect left 
calf; right shallow clean based heel ulcer
NEURO: A&Ox3
 
 
Pertinent Results:
LABS

___ 07:20AM BLOOD WBC-8.6 RBC-3.03* Hgb-8.9* Hct-29.0* 
MCV-96 MCH-29.4 MCHC-30.7* RDW-19.6* RDWSD-69.0* Plt ___
___ 06:52AM BLOOD WBC-9.0 RBC-2.94* Hgb-8.8* Hct-28.5* 
MCV-97 MCH-29.9 MCHC-30.9* RDW-19.6* RDWSD-68.8* Plt ___
___ 05:54PM BLOOD WBC-8.3 RBC-2.94* Hgb-8.9* Hct-28.9* 
MCV-98 MCH-30.3 MCHC-30.8* RDW-19.7* RDWSD-70.4* Plt ___
___ 06:45AM BLOOD WBC-9.2 RBC-3.15* Hgb-9.4* Hct-30.7* 
MCV-98 MCH-29.8 MCHC-30.6* RDW-19.6* RDWSD-69.1* Plt ___
___ 01:30PM BLOOD WBC-8.9 RBC-3.27* Hgb-9.8* Hct-31.9* 
MCV-98 MCH-30.0 MCHC-30.7* RDW-19.8* RDWSD-69.6* Plt ___
___ 08:52AM BLOOD WBC-10.9* RBC-3.16* Hgb-9.5* Hct-30.6* 
MCV-97 MCH-30.1 MCHC-31.0* RDW-19.6* RDWSD-69.6* Plt ___
___ 06:45AM BLOOD WBC-10.6* RBC-2.97* Hgb-8.9* Hct-29.0* 
MCV-98 MCH-30.0 MCHC-30.7* RDW-19.8* RDWSD-70.7* Plt ___
___ 06:50AM BLOOD WBC-12.6* RBC-3.01* Hgb-9.0* Hct-29.3* 
MCV-97 MCH-29.9 MCHC-30.7* RDW-19.9* RDWSD-70.1* Plt ___
___ 06:15AM BLOOD WBC-9.6 RBC-2.88* Hgb-8.6* Hct-27.4* 
MCV-95 MCH-29.9 MCHC-31.4* RDW-19.7* RDWSD-68.8* Plt ___
___ 01:32PM BLOOD WBC-9.1 RBC-3.18* Hgb-9.4* Hct-30.0* 
MCV-94 MCH-29.6 MCHC-31.3* RDW-19.6* RDWSD-68.1* Plt ___
___ 09:17PM BLOOD WBC-6.9 RBC-3.63* Hgb-11.0* Hct-34.7 
MCV-96 MCH-30.3 MCHC-31.7* RDW-19.9* RDWSD-68.3* Plt ___
___ 07:20AM BLOOD Glucose-106* UreaN-75* Creat-1.9* Na-135 
K-3.9 Cl-97 HCO3-26 AnGap-16
___ 06:52AM BLOOD Glucose-186* UreaN-80* Creat-2.2* Na-135 
K-4.0 Cl-98 HCO3-20* AnGap-21*
___ 05:54PM BLOOD Glucose-257* UreaN-82* Creat-2.2* Na-129* 
K-4.6 Cl-93* HCO3-21* AnGap-20
___ 11:12AM BLOOD Glucose-208* UreaN-87* Creat-2.3* Na-132* 
K-5.5* Cl-96 HCO3-16* AnGap-26*
___ 06:45AM BLOOD Glucose-212* UreaN-87* Creat-2.3* Na-133 
K-5.5* Cl-92* HCO3-20* AnGap-27*
___ 01:30PM BLOOD Glucose-130* UreaN-82* Creat-2.3* Na-133 
K-5.6* Cl-98 HCO3-23 AnGap-18
___ 08:52AM BLOOD Glucose-125* UreaN-83* Creat-2.3* Na-135 
K-5.1 Cl-99 HCO3-26 AnGap-15
___ 06:45AM BLOOD Glucose-89 UreaN-79* Creat-2.5* Na-134 
K-4.7 Cl-97 HCO3-23 AnGap-19
___ 06:50AM BLOOD Glucose-61* UreaN-74* Creat-2.1* Na-135 
K-4.5 Cl-100 HCO3-26 AnGap-14
___ 06:15AM BLOOD Glucose-29* UreaN-71* Creat-2.0* Na-138 
K-3.6 Cl-101 HCO3-25 AnGap-16
___ 01:32PM BLOOD Glucose-114* UreaN-73* Creat-2.3* Na-135 
K-4.1 Cl-98 HCO3-24 AnGap-17
___ 09:17PM BLOOD Glucose-270* UreaN-78* Creat-2.6* Na-133 
K-3.9 Cl-93* HCO___ AnG___*

IMAGING

___ Chest xray: The focal lateral left basilar opacity 
identified on portable radiograph 5 hours prior persists on the 
dedicated AP upright view, but is not definitively identified on 
the lateral view. Could repeat radiographs tomorrow to assess 
for resolution as this could reflect atelectasis. If continued 
persistence, CT would be a reasonable next step. 

 
Brief Hospital Course:
Ms. ___ was admitted to ___ on ___ for planned surgery. 
On arrival, her left foot wound was noted to be worsened with 
signs of infection. She was started on IV antibiotics 
(Vancomycin/Ciprofloxacin/Flagyl). She was taken to the 
Operating Room on ___ where she underwent a left 
femoral-below knee popliteal artery bypass with non-reversed 
saphenous vein graft, sciatic nerve block, left foot wound 
debridement and VAC placement. For full details of the 
procedure, please refer to the separately dictated Operative 
Report. She was extubated and returned to the PACU in stable 
condition. Following satisfactory recovery from anesthesia, she 
was transferred to the surgical floor for further monitoring. 

Pain was controlled with oral medications and a continuous 
bupivacaine infusion peripheral nerve block. Nerve block 
catheters were removed on ___. Her foley was also removed 
on ___, and her wound vac was removed on ___. 

Physical therapy was consulted and recommended rehab. 

She was discharged to rehab on ___. At the time of 
discharge, she was ambulating with rolling walk, tolerating a 
regular diet, voiding spontaneously, and pain was well 
controlled with oral medications. She will follow up in 3 weeks 
with Dr. ___ staple removal with duplex US at 4 weeks.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q8H 
2. Aspirin 81 mg PO DAILY 
3. Bisacodyl ___AILY:PRN constipation 
4. BuPROPion (Sustained Release) 150 mg PO QAM 
5. Digoxin 0.125 mg PO 3X/WEEK (___) 
6. Docusate Sodium 100 mg PO BID constipation 
7. Ezetimibe 10 mg PO DAILY 
8. Febuxostat 40 mg PO DAILY 
9. Ferrous Sulfate 325 mg PO BID 
10. Fluticasone Propionate 110mcg 2 PUFF IH BID 
11. FoLIC Acid 1 mg PO DAILY 
12. HydrALAZINE 20 mg PO Q8H 
13. Isosorbide Dinitrate 20 mg PO TID 
14. Levothyroxine Sodium 112 mcg PO DAILY 
15. Methylprednisolone 4 mg PO DAILY 
16. Metolazone 2.5 mg PO PRN as directed by cardiologist 
17. Metoprolol Succinate XL 200 mg PO DAILY 
18. Miconazole Powder 2% 1 Appl TP BID 
19. Omeprazole 20 mg PO DAILY 
20. OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - Severe 

21. Polyethylene Glycol 17 g PO DAILY constipation 
22. Prasugrel 10 mg PO DAILY 
23. Senna 8.6 mg PO BID:PRN constipation 
24. Simethicone 40-80 mg PO QID:PRN bloating 
25. Spironolactone 12.5 mg PO DAILY 
26. Torsemide 60 mg PO BID 
27. Vitamin D ___ UNIT PO DAILY 
28. Albuterol Inhaler 2 PUFF IH Q4H:PRN sob 
29. nystatin 100,000 unit/gram topical ___ daily 
30. OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - 
Moderate 

 
Discharge Medications:
1.  Glargine 30 Units Bedtime
Insulin SC Sliding Scale using REG Insulin 
2.  Levofloxacin 500 mg PO Q48H foot infection Duration: 14 Days 

RX *levofloxacin [Levaquin] 500 mg 1 tablet(s) by mouth every 
other day Disp #*7 Tablet Refills:*0 
3.  Acetaminophen 650 mg PO Q8H  
4.  Albuterol Inhaler 2 PUFF IH Q4H:PRN sob  
5.  Aspirin 81 mg PO DAILY  
6.  Bisacodyl ___AILY:PRN constipation  
7.  BuPROPion (Sustained Release) 150 mg PO QAM  
8.  Digoxin 0.125 mg PO 3X/WEEK (___)  
9.  Docusate Sodium 100 mg PO BID constipation  
10.  Ezetimibe 10 mg PO DAILY  
11.  Febuxostat 40 mg PO DAILY  
12.  Ferrous Sulfate 325 mg PO BID  
13.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
14.  FoLIC Acid 1 mg PO DAILY  
15.  HydrALAZINE 20 mg PO Q8H  
16.  Isosorbide Dinitrate 20 mg PO TID  
17.  Levothyroxine Sodium 112 mcg PO DAILY  
18.  Methylprednisolone 4 mg PO DAILY  
19.  Metolazone 2.5 mg PO PRN as directed by cardiologist  
20.  Metoprolol Succinate XL 200 mg PO DAILY  
21.  Miconazole Powder 2% 1 Appl TP BID  
22.  nystatin 100,000 unit/gram topical ___ daily  
23.  Omeprazole 20 mg PO DAILY  
24.  OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - 
Severe  
25.  Polyethylene Glycol 17 g PO DAILY constipation  
26.  Prasugrel 10 mg PO DAILY  
27.  Senna 8.6 mg PO BID:PRN constipation  
28.  Simethicone 40-80 mg PO QID:PRN bloating  
29.  Spironolactone 12.5 mg PO DAILY  
30.  Torsemide 60 mg PO BID  
31.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
peripheral arterial disease: 
-occluded left SFA
-occluded distal ___ 
non-healing ulcer of left foot 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ for bypass surgery to help improve 
the blood flow to your legs. The non-healing wound on your left 
foot was debrided and a wound VAC was placed. You have recovered 
well and are now ready for discharge. Please follow the 
instructions below regarding your care to ensure a speedy 
recovery: 

WHAT TO EXPECT:
1. It is normal to feel tired, this will last for ___ weeks 
• You should get up out of bed every day and gradually increase 
your activity each day 
• Unless you were told not to bear any weight on operative foot: 
you may walk and you may go up and down stairs 
• Increase your activities as you can tolerate- do not do too 
much right away!
2. It is normal to have swelling of the leg you were operated 
on:
• Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
• Avoid prolonged periods of standing or sitting without your 
legs elevated
3. It is normal to have a decreased appetite, your appetite will 
return with time 
• You will probably lose your taste for food and lose some 
weight 
• Eat small frequent meals
• It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
• To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

MEDICATION:
• Take aspirin as instructed 
• Follow your discharge medication instructions

ACTIVITIES:
• No driving until post-op visit and you are no longer taking 
pain medications
• Unless you were told not to bear any weight on operative foot: 

• You should get up every day, get dressed and walk
• You should gradually increase your activity
• You may up and down stairs, go outside and/or ride in a car
• Increase your activities as you can tolerate- do not do too 
much right away!
• No heavy lifting, pushing or pulling (greater than 5 pounds) 
until your post op visit 
• You may shower (unless you have stitches or foot incisions) no 
direct spray on incision, let the soapy water run over incision, 
rinse and pat dry
• Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area that is draining, as needed

CALL THE OFFICE FOR: ___
• Redness that extends away from your incision
• A sudden increase in pain that is not controlled with pain 
medication
• A sudden change in the ability to move or use your leg or the 
ability to feel your leg
• Temperature greater than 100.5F for 24 hours
• Bleeding, new or increased drainage from incision or white, 
yellow or green drainage from incisions

Thank you for allowing us to participate in your care. 

Sincerely, 

Your ___ Surgery Team 
 
Followup Instructions:
___